US06706757B2
Preparation of [7-(Methylamino)-3,4-dihydro-2H-chromen-2-yl]methanol
A solution of ethyl 7-(formylamino)chroman-2-carboxylate (1.54 g; 6.00 mmol) in anhydrous THF, under nitrogen, is treated dropwise with a 1 M solution of lithium aluminum hydride in THF (30 mL; 30 mmol), stirred at ambient temperature for 4 h, quenched with a 10% solution of water in THF, with cooling as necessary to maintain room temperature, poured into water and extracted with ethyl acetate. The combined extracts are washed with brine, dried over MgSO4 and concentrated in vacuo to afford the title compound as a straw colored oil (1.13 g; 98% yield), identified by NMR spectral analysis.

reactant | ethyl 7-(formylamino)chroman-2-carboxylate | 6.00 mmol, 1.54 g | C(=O)NC1=CC=C2CCC(OC2=C1)C(=O)OCC | C13H15NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mmol, 30 mL | C1CCOC1 | C4H8O
product | [7-(Methylamino)-3,4-dihydro-2H-chromen-2-yl]methanol | 1.13 g, 98% yield | CNC1=CC=C2CCC(OC2=C1)CO | C11H15NO2
